US04602092
[Ethoxy-(4-phenylbutyl)phosphinyl]acetic acid
To a solution of 4-phenylbutyl phosphonous acid, ethyl ether (0.5 g, 0.0022 mole) in chloroform (10 ml) was added triethylamine (0.68 ml, 0.0048 mole) and the solution was cooled in an ice bath to 0° C. Trimethyl silyl chloride (0.6 ml, 0.0048 mole) was added to the above solution dropwise, followed by bromoacetic acid (0.34 g, 0.0024 mole). The ice bath was removed and the mixture stirred at room temperature for 5 hours and poured into 10% aqueous HCl (30 ml) and crushed ice (20 g). After shaking the mixture in a separatory funnel, the chloroform layer was separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and the solvents removed on a rotavap. The resulting crude thick oil was vacuum dried to get 0.61 g (97%) of title compound in the form of an oil, TLC: Silica gel, CH2Cl2 :MeOH:HOAc shows one main spot at Rf =0.37.

reactant | 4-phenylbutyl phosphonous acid | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | ethyl ether | 0.0022 mole, 0.5 g | C(C)OCC | C4H10O
reactant | triethylamine | 0.0048 mole, 0.68 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethyl silyl chloride | 0.0048 mole, 0.6 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | bromoacetic acid | 0.0024 mole, 0.34 g | BrCC(=O)O | C2H3BrO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | [Ethoxy-(4-phenylbutyl)phosphinyl]acetic acid | 0.61 g, 97% | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C14H21O4P
